### PR TITLE
[Merged by Bors] - feat: injectivity of `algebraMap` for `FiniteIntegralAdeles` to `FiniteAdeleRing`

### PR DESCRIPTION
**Pull request by smmercuri**
---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/RingTheory/DedekindDomain/FiniteAdeleRing.lean [hunk 1]
```diff
@@ -170,6 +170,20 @@ def Coe.algHom : AlgHom R (R_hat R K) (K_hat R K) :=
 theorem Coe.algHom_apply (x : R_hat R K) (v : HeightOneSpectrum R) : (Coe.algHom R K) x v = x v :=
   rfl
 
+theorem algebraMap_apply (x : R_hat R K) :
+    algebraMap (R_hat R K) (K_hat R K) x = fun v => ↑(x v) := rfl
+
+theorem algebraMap_injective : Function.Injective (algebraMap (R_hat R K) (K_hat R K)) := by
```
Comment (ocfnash) [inline Mathlib/RingTheory/DedekindDomain/FiniteAdeleRing.lean:176]: How about instead:
```suggestion
instance : FaithfulSMul (R_hat R K) (K_hat R K) := by
```
and below

Comment (smmercuri) [reply Mathlib/RingTheory/DedekindDomain/FiniteAdeleRing.lean]: Yes I like that! Changed to `FaithfulSMul`s

File: Mathlib/Algebra/Algebra/Basic.lean [hunk 2]
```diff
@@ -330,6 +330,13 @@ theorem _root_.NeZero.of_faithfulSMul (n : ℕ) [NeZero (n : R)] :
 @[deprecated (since := "2025-01-31")]
 alias _root_.NeZero.of_noZeroSMulDivisors := NeZero.of_faithfulSMul
 
+variable {R A} in
+theorem of_comp {B : Type*} [Semiring B] [Algebra R B] {f : B → A}
+    (h : ∀ m, f (algebraMap R B m) = algebraMap R A m) :
+    FaithfulSMul R B := by
+  rw [faithfulSMul_iff_algebraMap_injective]
+  exact (funext fun m => h m) ▸ FaithfulSMul.algebraMap_injective R A |>.of_comp
```
Comment (ocfnash) [inline Mathlib/Algebra/Algebra/Basic.lean:338]: Again, I think we should use typeclasses rather than manual arguments: we can replace `h` with an `IsScalarTower` assumption. How about instead of this we place the following below `IsScalarTower.algebraMap_eq` in `Mathilb/Algebra/Algebra/IsScalarTower.lean`:
```lean
open FaithfulSMul in
theorem faithfulSMul [FaithfulSMul R A] : FaithfulSMul R S := by
  have : algebraMap S A ∘ algebraMap R S = algebraMap R A := by simp [algebraMap_eq R S A]
  exact (faithfulSMul_iff_algebraMap_injective _ _).mpr (this ▸ algebraMap_injective R A).of_comp
```
Admittedly this requires `S` to be a `CommSemiring` whereas `B` (corresponding to `S`) in your lemma is allowed to be non-commutative. However I claim we don't really lose any mathematical generality since the action of its center on `A` will be trivial and thus in any application we should have a commutative `B`.

Comment (ocfnash) [reply Mathlib/Algebra/Algebra/Basic.lean:338]: Glancing at your application you might need to add:
```lean
instance : Algebra (FiniteAdeleRing R K) (K_hat R K) := (subalgebra R K).toAlgebra
```

Comment (smmercuri) [reply Mathlib/Algebra/Algebra/Basic.lean]: Oh yes you're right, I don't need the `of_comp` lemma at all. Also don't really need 
```lean
instance : Algebra (FiniteAdeleRing R K) (K_hat R K) := (subalgebra R K).toAlgebra
instance : FaithfulSMul (FiniteAdeleRing R K) (K_hat R K) := ...
```
either but they might be useful to leave in anyway?

Comment (ocfnash) [reply Mathlib/Algebra/Algebra/Basic.lean]: Thanks and yes, I think we should keep these instances.

File: Mathlib/RingTheory/DedekindDomain/FiniteAdeleRing.lean [hunk 3]
```diff
@@ -391,6 +395,21 @@ lemma exists_finiteIntegralAdele_iff (a : FiniteAdeleRing R K) :
     (∃ c : R_hat R K, a = c) ↔ ∀ v : HeightOneSpectrum R, a v ∈ adicCompletionIntegers K v :=
   ⟨by rintro ⟨c, rfl⟩ v; exact (c v).2, fun h ↦ ⟨fun v ↦ ⟨a v, h v⟩, rfl⟩⟩
 
+@[simp, norm_cast]
+theorem coe_algebraMap' (r : R_hat R K) :
+    algebraMap (R_hat R K) (FiniteAdeleRing R K) r =
+      algebraMap (R_hat R K) (K_hat R K) r :=
+  rfl
+
+instance : Algebra (FiniteAdeleRing R K) (K_hat R K) := (subalgebra _ _).toAlgebra
```
Comment (ocfnash) [inline Mathlib/RingTheory/DedekindDomain/FiniteAdeleRing.lean:404]: Part nitpick, and part additional `IsScalarTower` instance (to make the new algebra structure useful).
```suggestion
instance : Algebra (FiniteAdeleRing R K) (K_hat R K) := (subalgebra _ _).toAlgebra

instance : IsScalarTower (R_hat R K) (FiniteAdeleRing R K) (K_hat R K) where
  smul_assoc x y z := smul_mul_assoc x y.val z

@[simp, norm_cast]
theorem coe_algebraMap' (r : R_hat R K) :
    algebraMap (R_hat R K) (FiniteAdeleRing R K) r = algebraMap (R_hat R K) (K_hat R K) r :=
  rfl
```

**Review by ocfnash — APPROVED** [review]
Thanks, bors d+

File: Mathlib/RingTheory/DedekindDomain/FiniteAdeleRing.lean [hunk 4]
```diff
@@ -391,6 +395,23 @@ lemma exists_finiteIntegralAdele_iff (a : FiniteAdeleRing R K) :
     (∃ c : R_hat R K, a = c) ↔ ∀ v : HeightOneSpectrum R, a v ∈ adicCompletionIntegers K v :=
   ⟨by rintro ⟨c, rfl⟩ v; exact (c v).2, fun h ↦ ⟨fun v ↦ ⟨a v, h v⟩, rfl⟩⟩
 
+instance : Algebra (FiniteAdeleRing R K) (K_hat R K) := (subalgebra _ _).toAlgebra
```
Comment (riccardobrasca) [inline Mathlib/RingTheory/DedekindDomain/FiniteAdeleRing.lean:398]: Is this really needed? [Subalgebra.toAlgebra](https://leanprover-community.github.io/mathlib4_docs/Mathlib/Algebra/Algebra/Subalgebra/Basic.html#Subalgebra.toAlgebra) is already an instance.

**Review by riccardobrasca — APPROVED** [review]
Thanks!

bors d+

File: Mathlib/RingTheory/DedekindDomain/FiniteAdeleRing.lean (hunk 4 above)
Comment (smmercuri) [reply Mathlib/RingTheory/DedekindDomain/FiniteAdeleRing.lean:398]: I think this is needed, mainly because `FiniteAdeleRing R K` is defined as a type (rather than a `Subalgebra`), and only gets access to `Subalgebra` API via `FiniteAdeleRing.subalgebra R K`

Comment (riccardobrasca) [reply Mathlib/RingTheory/DedekindDomain/FiniteAdeleRing.lean:398]: Ah sure, you're right.

**Comment by riccardobrasca** [comment]
Thanks!

bors d+
